US08895571B2
Step D: 2-[(2S)-2-(5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-3-cyclohexylpropyl]-1H-isoindole-1,3(2H)-dione
A mixture of 2-[(2S)-2-amino-3-cyclohexylpropyl]-1H-isoindole-1,3(2H)-dione (914.3 mg, 3.193 mmol), methyl 4-bromo-2-(bromomethyl)benzoate (960.0 mg, 3.117 mmol) and N,N-diisopropylethylamine (0.6 mL, 3 mmol) in 1-butanol (4 mL, 40 mmol) was stirred at 140° C. for 2 h under microwave irradiation. Direct purification by combi-flash chromatography afforded 810 mg (54% yield) of the desired product. LC-MS found: 481.1 (M+H)+.

reactant | 2-[(2S)-2-amino-3-cyclohexylpropyl]-1H-isoindole-1,3(2H)-dione | 3.193 mmol, 914.3 mg | N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1CCCCC1 | C17H22N2O2
reactant | methyl 4-bromo-2-(bromomethyl)benzoate | 3.117 mmol, 960.0 mg | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | N,N-diisopropylethylamine | 3 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-butanol | 40 mmol, 4 mL | C(CCC)O | C4H10O
product | 2-[(2S)-2-(5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-3-cyclohexylpropyl]-1H-isoindole-1,3(2H)-dione | 810 mg, 54% yield | BrC=1C=C2CN(C(C2=CC1)=O)[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1CCCCC1 | C25H25BrN2O3
